US09145380B2
a) (E)-5-Cyano-2-(2-(3,4-dichlorophenyl)vinylsulfonamido)benzenesulfonamide
The title compound was synthesized as described for Example 194 a), starting from 2-amino-5-cyanobenzenesulfonamide and (E)-2-(3,4-dichlorophenyl)ethenesulfonyl chloride (1.5 equiv.). Purification by column chromatography, using chloroform/methanol (95:5-9:1) as the eluent.

reactant | 2-amino-5-cyanobenzenesulfonamide | NC1=C(C=C(C=C1)C#N)S(=O)(=O)N | C7H7N3O2S
reactant | (E)-2-(3,4-dichlorophenyl)ethenesulfonyl chloride | 1.5 equiv. | ClC=1C=C(C=CC1Cl)/C=C/S(=O)(=O)Cl | C8H5Cl3O2S
product | (E)-5-Cyano-2-(2-(3,4-dichlorophenyl)vinylsulfonamido)benzenesulfonamide | C(#N)C=1C=CC(=C(C1)S(=O)(=O)N)NS(=O)(=O)\C=C\C1=CC(=C(C=C1)Cl)Cl | C15H11Cl2N3O4S2
